US08633175B2
Step 3: 1,1-dimethylethyl (4,4-dimethylcyclohexyl)[(3′-{[(2-phenylethyl)amino]-carbonyl}-4-biphenylyl)methyl]carbamate
To a solution of 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-methyl]-3-biphenylcarboxylic acid (0.100 g; 0.23 mmol) in DMF (2 mL) was added DIEA (0.035 mL; 0.25 mmol), and HATU (0.095 g; 0.25 mmol). The solution was aged 5 min at room temperature and phenethylamine (0.031 mL; 0.25 mmol) was added. After 45 min the mixture was partitioned between EtOAc and half-satd Na2CO3, layers were separated and the aqueous layer was extracted with EtOAc (×2). Combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless gum. LC/MS (method E) tR 1.19 min; m/z 541 (M+H).

reactant | 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-methyl]-3-biphenylcarboxylic acid | 0.23 mmol, 0.100 g | CC1(CCC(CC1)N(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O)C | C27H35NO4
reactant | DIEA | 0.25 mmol, 0.035 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.25 mmol, 0.095 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | phenethylamine | 0.25 mmol, 0.031 mL | C(CC1=CC=CC=C1)N | C8H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl (4,4-dimethylcyclohexyl)[(3′-{[(2-phenylethyl)amino]-carbonyl}-4-biphenylyl)methyl]carbamate | CC1(CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NCCC1=CC=CC=C1)C | C35H44N2O3
